US05571506
Step 3: Preparation of Methyl 2-Hydroxymethyl-4-methoxyhydrocinnamate
A mixture of methyl 2-formyl-4-methoxycinnamate (15.9 g) and 10% palladium on carbon (2.0 g) in ethyl acetate (200 ml) is shaken under a hydrogen pressure of 45 psi for about 18 hours. The mixture is filtered, concentrated in vacuo, and the residue purified by HPLC, eluting with hexanes/ethyl acetate (3:2), to give the desired product.

reactant | methyl 2-formyl-4-methoxycinnamate | 15.9 g | C(=O)C1=C(C=CC(=O)OC)C=CC(=C1)OC | C12H12O4
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 2-Hydroxymethyl-4-methoxyhydrocinnamate | OCC1=C(CCC(=O)OC)C=CC(=C1)OC | C12H16O4
